.title kicad schematic

* u28 net-_u23-pad3_ net-_u24-pad3_ net-_u28-pad3_ d_or
* u23 net-_u15-pad2_ b4 net-_u23-pad3_ d_and
* u24 a4 net-_u16-pad2_ net-_u24-pad3_ d_and
* u22 a3 net-_u14-pad2_ net-_u22-pad3_ d_and
* u31 net-_u27-pad3_ net-_u31-pad2_ d_inverter
* u17 net-_u17-pad1_ b1 net-_u17-pad3_ d_and
* u18 a1 net-_u10-pad2_ net-_u18-pad3_ d_and
* u10 b1 net-_u10-pad2_ d_inverter
* u9 a1 net-_u17-pad1_ d_inverter
* u7 net-_u7-pad1_ a4 adc_bridge_1
* u8 net-_u8-pad1_ b4 adc_bridge_1
* u6 net-_u6-pad1_ b3 adc_bridge_1
* u5 net-_u5-pad1_ a3 adc_bridge_1
* u15 a4 net-_u15-pad2_ d_inverter
* u16 b4 net-_u16-pad2_ d_inverter
v5 net-_u5-pad1_ gnd pulse(0 5 0 1n 1n 10m 20m)
v8 net-_u8-pad1_ gnd pulse(0 5 0 1n 1n 20m 40m)
v7 net-_u7-pad1_ gnd pulse(0 5 0 1n 1n 10m 20m)
v6 net-_u6-pad1_ gnd pulse(0 5 0 1n 1n 20m 40m)
* u14 b3 net-_u14-pad2_ d_inverter
* u13 a3 net-_u13-pad2_ d_inverter
v3 net-_u3-pad1_ gnd pulse(0 5 0 1n 1n 10m 20m)
v4 net-_u4-pad1_ gnd pulse(0 5 0 1n 1n 20m 40m)
* u3 net-_u3-pad1_ a2 adc_bridge_1
* u4 net-_u4-pad1_ b2 adc_bridge_1
* u12 b2 net-_u12-pad2_ d_inverter
* u11 a2 net-_u11-pad2_ d_inverter
* u1 net-_u1-pad1_ a1 adc_bridge_1
* u2 net-_u2-pad1_ b1 adc_bridge_1
v1 net-_u1-pad1_ gnd pulse(0 5 0 1n 1n 10m 20m)
v2 net-_u2-pad1_ gnd pulse(0 5 0 1n 1n 20m 40m)
* u25 net-_u17-pad3_ net-_u18-pad3_ net-_u25-pad3_ d_or
* u26 net-_u19-pad3_ net-_u20-pad3_ net-_u26-pad3_ d_or
* u30 net-_u26-pad3_ net-_u30-pad2_ d_inverter
* u29 net-_u25-pad3_ net-_u29-pad2_ d_inverter
* u38 net-_u31-pad2_ z3 dac_bridge_1
* u32 net-_u28-pad3_ net-_u32-pad2_ d_inverter
* u39 net-_u28-pad3_ y4 dac_bridge_1
* u40 net-_u32-pad2_ z4 dac_bridge_1
* u21 net-_u13-pad2_ b3 net-_u21-pad3_ d_and
* u19 net-_u11-pad2_ b2 net-_u19-pad3_ d_and
* u20 a2 net-_u12-pad2_ net-_u20-pad3_ d_and
* u27 net-_u21-pad3_ net-_u22-pad3_ net-_u27-pad3_ d_or
* u33 net-_u25-pad3_ y1 dac_bridge_1
* u34 net-_u29-pad2_ z1 dac_bridge_1
* u36 net-_u30-pad2_ z2 dac_bridge_1
* u35 net-_u26-pad3_ y2 dac_bridge_1
* u37 net-_u27-pad3_ y3 dac_bridge_1
a1 [net-_u23-pad3_ net-_u24-pad3_ ] net-_u28-pad3_ u28
a2 [net-_u15-pad2_ b4 ] net-_u23-pad3_ u23
a3 [a4 net-_u16-pad2_ ] net-_u24-pad3_ u24
a4 [a3 net-_u14-pad2_ ] net-_u22-pad3_ u22
a5 net-_u27-pad3_ net-_u31-pad2_ u31
a6 [net-_u17-pad1_ b1 ] net-_u17-pad3_ u17
a7 [a1 net-_u10-pad2_ ] net-_u18-pad3_ u18
a8 b1 net-_u10-pad2_ u10
a9 a1 net-_u17-pad1_ u9
a10 [net-_u7-pad1_ ] [a4 ] u7
a11 [net-_u8-pad1_ ] [b4 ] u8
a12 [net-_u6-pad1_ ] [b3 ] u6
a13 [net-_u5-pad1_ ] [a3 ] u5
a14 a4 net-_u15-pad2_ u15
a15 b4 net-_u16-pad2_ u16
a16 b3 net-_u14-pad2_ u14
a17 a3 net-_u13-pad2_ u13
a18 [net-_u3-pad1_ ] [a2 ] u3
a19 [net-_u4-pad1_ ] [b2 ] u4
a20 b2 net-_u12-pad2_ u12
a21 a2 net-_u11-pad2_ u11
a22 [net-_u1-pad1_ ] [a1 ] u1
a23 [net-_u2-pad1_ ] [b1 ] u2
a24 [net-_u17-pad3_ net-_u18-pad3_ ] net-_u25-pad3_ u25
a25 [net-_u19-pad3_ net-_u20-pad3_ ] net-_u26-pad3_ u26
a26 net-_u26-pad3_ net-_u30-pad2_ u30
a27 net-_u25-pad3_ net-_u29-pad2_ u29
a28 [net-_u31-pad2_ ] [z3 ] u38
a29 net-_u28-pad3_ net-_u32-pad2_ u32
a30 [net-_u28-pad3_ ] [y4 ] u39
a31 [net-_u32-pad2_ ] [z4 ] u40
a32 [net-_u13-pad2_ b3 ] net-_u21-pad3_ u21
a33 [net-_u11-pad2_ b2 ] net-_u19-pad3_ u19
a34 [a2 net-_u12-pad2_ ] net-_u20-pad3_ u20
a35 [net-_u21-pad3_ net-_u22-pad3_ ] net-_u27-pad3_ u27
a36 [net-_u25-pad3_ ] [y1 ] u33
a37 [net-_u29-pad2_ ] [z1 ] u34
a38 [net-_u30-pad2_ ] [z2 ] u36
a39 [net-_u26-pad3_ ] [y2 ] u35
a40 [net-_u27-pad3_ ] [y3 ] u37
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u28 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u23 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u24 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u22 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u31 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u17 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u18 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u10 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u9 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u7 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u8 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u6 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u5 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u15 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u16 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u14 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u13 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u3 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u4 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u12 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u11 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u1 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u2 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u25 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u26 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u30 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u29 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u38 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u32 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u39 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u40 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u21 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u19 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u20 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u27 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u33 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u34 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u36 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u35 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u37 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 0.1e-03 80e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
